US07897792B2
2-(3-Amino-2-fluorobenzyl)-5-(pyrimidin-2-yloxy)-isoindole-1,3-dione
3-Aminomethyl-2-fluoro-phenylamine (50.8 mg, 0.362 mmol) and imidazole (26.0 mg, 0.382 mmol) were added to a solution of 4-(pyrimidin-2-yloxy)phthalic acid (94.1 mg, 0.362 mmol) in DMF (2.0 mL), and the mixture was stirred in a Microwave at 300 W, 150° C. for 5 minutes. Water was then added to the reaction mixture, extraction was performed with ethyl acetate, and the organic extract was washed with saturated saline. After drying over magnesium sulfate, it was concentrated under reduced pressure to yield a crude product, which was then purified by column chromatography to yield the title compound (13.4 mg, 10%) as a white solid.

reactant | 3-Aminomethyl-2-fluoro-phenylamine | 0.362 mmol, 50.8 mg | NCC=1C(=C(C=CC1)N)F | C7H9FN2
reactant | imidazole | 0.382 mmol, 26.0 mg | N1C=NC=C1 | C3H4N2
reactant | 4-(pyrimidin-2-yloxy)phthalic acid | 0.362 mmol, 94.1 mg | N1=C(N=CC=C1)OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C12H8N2O5
reactant | Water | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-Amino-2-fluorobenzyl)-5-(pyrimidin-2-yloxy)-isoindole-1,3-dione | 13.4 mg, 10% | NC=1C(=C(CN2C(C3=CC=C(C=C3C2=O)OC2=NC=CC=N2)=O)C=CC1)F | C19H13FN4O3
